US06432993B1
(19-2) 5-{4-(6-[4-(Imidazole-1-yl)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride
A mixture of t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[4-(imidazole-1-yl)phenoxy]phenyl}-N-methylcarbamate (1.75 g) and 4N hydrogen chloride/dioxane (20 ml) was stirred at ambient temperature for 19 hours. The solvent of the reaction mixture was evaporated to dryness. To the residue was added ethyl acetate and insoluble product was collected by filtration. The product was purified by reversed-phase high performance liquid chromatography using acetonitrile/water=7/13 as the eluant and was treated with 4N hydrogen chloride/acetate to give the title compound (0.20 g).

reactant | t-butyl N-{2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxyacetylamino]-5-[4-(imidazole-1-yl)phenoxy]phenyl}-N-methylcarbamate | 1.75 g | O=C1SC(C(N1)=O)CC1=CC=C(OCC(=O)NC2=C(C=C(C=C2)OC2=CC=C(C=C2)N2C=NC=C2)N(C(OC(C)(C)C)=O)C)C=C1 | C33H33N5O7S
reactant | hydrogen chloride dioxane | 4N, 20 ml | Cl.O1CCOCC1
product | 5-{4-(6-[4-(Imidazole-1-yl)phenoxy]-1-methyl-1H-benzimidazole-2-ylmethoxy)benzyl}thiazolidine-2,4-dione dihydrochloride | 0.20 g | Cl.Cl.N1(C=NC=C1)C1=CC=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=C1 | InChI=1S/C28H23N5O4S.2ClH/c1-32-24-15-22(37-21-8-4-19(5-9-21)33-13-12-29-17-33)10-11-23(24)30-26(32)16-36-20-6-2-18(3-7-20)14-25-27(34)31-28(35)38-25;;/h2-13,15,17,25H,14,16H2,1H3,(H,31,34,35);2*1H
